2177-12-21 07:58:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   43 year-old woman with a history of hypertension, obesity s/p gastric
   bypass presenting with pyelonephritis and urosepsis.
   24 Hour Events:
 MULTI LUMEN - START [**2177-12-20**] 11:30 AM
 NASAL SWAB - At [**2177-12-20**] 12:00 PM
   - GNRs in 2 bottles
   - off pressors at m/n
   - surgery: banana bag, no concern for cholecystitis
   - didn't pull back cvl b/c was already back several centimeters on neck
   skin and we felt it would be unstable.
   Allergies:
   Bactrim Ds (Oral) (Sulfamethoxazole/Trimethoprim)
   sick;
   Last dose of Antibiotics:
   Cefipime - [**2177-12-20**] 12:57 PM
   Vancomycin - [**2177-12-20**] 08:30 PM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2177-12-20**] 04:49 PM
   Morphine Sulfate - [**2177-12-21**] 04:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-12-21**] 07:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**79**] AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 77 (69 - 98) bpm
   BP: 92/48(59) {87/39(50) - 110/74(81)} mmHg
   RR: 16 (14 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
    CVP: 10 (5 - 10)mmHg
   Total In:
                                                                  9,661 mL
                                                                  1,128 mL
   PO:
   TF:
   IVF:
                                                                  2,661 mL
                                                                  1,128 mL
   Blood products:
   Total out:
                                                                  1,700 mL
                                                                    690 mL
   Urine:
                                                                  1,700 mL
                                                                    690 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  7,961 mL
                                                                    438 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///20/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   232 K/uL
   6.9 g/dL
   84 mg/dL
   1.0 mg/dL
   20 mEq/L
   4.1 mEq/L
   17 mg/dL
   114 mEq/L
   140 mEq/L
   24.1 %
   10.2 K/uL
        [image002.jpg]
                             [**2177-12-21**]  04:07 AM
   WBC
   10.2
   Hct
   24.1
   Plt
   232
   Cr
   1.0
   Glucose
   84
   Other labs: ALT / AST:28/33, Alk Phos / T Bili:68/0.4, Lactic Acid:2.8
   mmol/L, LDH:158 IU/L
   Assessment and Plan
   43 year-old woman with a history of hypertension, obesity s/p gastric
   bypass presenting with pyelonephritis and urosepsis.
   # Urosepsis:  Meets SIRS criteria with bandemia, tachycardia, and left
   ureteral fat stranding and UA with evidence of infection.  Received 7L
   of NS in ED and on pressors.  Right IJ and A-line in place.  Off
   pressors and now HD stable.
   - MAP > 60 and SV02 at goal (>70%)
   - blood cultures
   - cefepime pending cultures
   - can d/c vanc
   - f/u culture data
   - will defer pulling CVL back 2 cm as may become unstable on skin;
   likely will not need line beyond today
   # Acute renal failure:  Likely prerenal in setting of sepsis and
   hypotension.
   - resolving with IVFs
   # Question cholecystitis:  Unlikely given normal LFTs and absence of
   LUQ pain.
   - f/u surgery reccs
   - on antibx for sepsis
   - would not pursue further imaging
   # Microcytic anemia:  Thought to be related to gastric bypass, low B12,
   low iron.
   - guaiac stools
   - banana bag per surgery
   # Headache: similar to baseline headaches, will start ibuprofen
   # FEN: IVFs / replete lytes prn / regular diet
   # PPX: PPI, heparin SQ, bowel regimen
   # ACCESS: PIV
   # CODE:  Full, discussed
   # CONTACT:  fiance, [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 10815**] [**Telephone/Fax (1) 10816**]
   ICU Care
   Nutrition:
   Comments: regular
   Glycemic Control:
   Lines:
   20 Gauge - [**2177-12-20**] 11:00 AM
   18 Gauge - [**2177-12-20**] 11:00 AM
   Multi Lumen - [**2177-12-20**] 11:30 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition:

2177-12-21 08:08:00 Physician Attending Progress Note
Chief Complaint: L flank pain, hypotension
   HPI:
   See H&P for full details, in brief a 43F s/p gastric bypass w/acute
   onset L flank pain, found to be hypotensive.
   24 Hour Events:
 Aggressive IVF and pressors started in the ED
 R IJ TLC placed in ED
Weaned off pressors at midnight
Blood cultures w/GNRs
   Allergies:
   Bactrim Ds - sick
   Last dose of Antibiotics:
   Cefipime - [**2177-12-20**] 12:57 PM
   Vancomycin - [**2177-12-20**] 08:30 PM
   Infusions:
   Other ICU medications:
   Lansoprazole
   Morphine Sulfate
   Other medications:
   Heparin, paroxetine, buspiron, iron, MVI
   Changes to medical and family history: None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-12-21**] 08:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**79**] AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 77 (69 - 98) bpm
   BP: 92/48(59) {87/39(50) - 110/74(81)} mmHg
   RR: 16 (14 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
   CVP: 10 (5 - 10)mmHg
   Total In:
                                                                  9,661 mL
                                                                  1,131 mL
   PO:
   TF:
   IVF:
                                                                  2,661 mL
                                                                  1,131 mL
   Blood products:
   Total out:
                                                                  1,700 mL
                                                                    690 mL
   Urine:
                                                                  1,700 mL
                                                                    690 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  7,961 mL
                                                                    441 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///20/
   Physical Examination
   General Appearance: Well nourished, anxious F
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, MMM, neck supple
   Cardiovascular: Tachy, RR, S1, S2, [**1-24**] HSM
   Extremities/Peripheral Vascular: Warm, 2+ DP, radial bilat
   Respiratory / Chest: CTAB
   Abdominal: Soft, Bowel sounds present, Tender: L flank
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   6.9 g/dL
   232 K/uL
   84 mg/dL
   1.0 mg/dL
   20 mEq/L
   4.1 mEq/L
   17 mg/dL
   114 mEq/L
   140 mEq/L
   24.1 %
   10.2 K/uL
        [image002.jpg]
                             [**2177-12-21**]  04:07 AM
   WBC
   10.2
   Hct
   24.1
   Plt
   232
   Cr
   1.0
   Glucose
   84
   Other labs: ALT / AST:28/33, Alk Phos / T Bili:68/0.4, Lactic Acid:2.8
   mmol/L, LDH:158 IU/L
   Blood Cultures
 GNRs, speciation and sensitivies pending, Urine Cx w/E
   coli, sensitivities pending.
   ABD CT
 Bilateral perinephric fat stranding, cystic L adnexal
   structure, distended gall-bladder with surrounding erythema
   RUQ US
 Distended gall bladder
   Assessment and Plan
 SEPSIS
 Likely due to pyelonephritis given positive urine cultures.
   Will repeat blood cultures, await sensitivies.  Was initially some
   concern for cholecysitis but exam and imaging not supportive of that.
   Off pressors.
   - Continue cefepime, stop vancomycin, plan for 2 weeks of antibiotics
   from when cultures clear
   - Fluids as needed given poor POs, keep MAPs > 60
   - Still w/marked L flank pain, will transition to oral pain medications
 Iron deficiency anemia
 markedly low ferritin and iron with Hct of
   20 at recent PCP appt, improved with transfusion
   - On supplemental iron
   - Hct >21
S/p Gastric Bypass
 Iron and vitamin deficient
   - MVI, Iron, thiamine, folate
   ICU Care
   Nutrition: Oral diet
   Glycemic Control: adequate
   Lines:
   20 Gauge - [**2177-12-20**] 11:00 AM
   18 Gauge - [**2177-12-20**] 11:00 AM
   Multi Lumen - [**2177-12-20**] 11:30 AM
   Prophylaxis:
   DVT: Hep sc
   Stress ulcer: PPI
   VAP: N/A
   Comments:
   Communication:  With fianc
 and patient
   Code status: Full code
   Disposition : If stable over the AM, consider call out this afternoon
   Total time spent: 30 minutes

2177-12-22 07:12:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - blood cx with [**First Name9 (NamePattern2) 634**] [**Last Name (un) 46**] to cipro; switch to IV cipro but during first
   dose felt nauseous with dry heaving- but also in setting of receiving
   other meds as well
   - switched to PO cipro since patient has received that previously
   - BPs on lowish end earlier in day with tachycardia with minimal
   movement- received to IVF boluses with improvement; encouraged
   increased PO intake with improvement
   Allergies:
   Bactrim Ds (Oral) (Sulfamethoxazole/Trimethoprim)
   sick;
   Last dose of Antibiotics:
   Vancomycin - [**2177-12-20**] 08:30 PM
   Cefipime - [**2177-12-21**] 09:00 AM
   Ciprofloxacin - [**2177-12-21**] 08:15 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2177-12-21**] 09:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-12-22**] 07:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**79**] AM
   Tmax: 37.9
C (100.3
   Tcurrent: 36.6
C (97.8
   HR: 66 (66 - 119) bpm
   BP: 107/78(84) {93/51(60) - 134/93(103)} mmHg
   RR: 14 (13 - 24) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
    CVP: 4 (4 - 9)mmHg
   Total In:
                                                                  3,190 mL
                                                                     72 mL
   PO:
                                                                    600 mL
   TF:
   IVF:
                                                                  2,590 mL
                                                                     72 mL
   Blood products:
   Total out:
                                                                  3,050 mL
                                                                    720 mL
   Urine:
                                                                  3,050 mL
                                                                    720 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    140 mL
                                                                   -649 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ////
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Musculoskeletal: left cva ttp
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   232 K/uL
   6.9 g/dL
   84 mg/dL
   1.0 mg/dL
   20 mEq/L
   4.1 mEq/L
   17 mg/dL
   114 mEq/L
   140 mEq/L
   24.1 %
   10.2 K/uL
                             [**2177-12-21**]  04:07 AM
   WBC
   10.2
   Hct
   24.1
   Plt
   232
   Cr
   1.0
   Glucose
   84
   Other labs: ALT / AST:28/33, Alk Phos / T Bili:68/0.4, Lactic Acid:2.8
   mmol/L, LDH:158 IU/L, Ca++:7.9 mg/dL, Mg++:1.5 mg/dL, PO4:3.5 mg/dL
   Microbiology: UCX from [**12-20**]:  ESCHERICHIA COLI.    >100,000
   ORGANISMS/ML..
   Assessment and Plan
   43 year-old woman with a history of hypertension, obesity s/p gastric
   bypass presenting with pyelonephritis and urosepsis.
   # Urosepsis:  Meets SIRS criteria with bandemia, tachycardia, and left
   ureteral fat stranding and UA with evidence of infection.  Received 7L
   of NS in ED and on pressors.  Right IJ placed in ED.  Off pressors and
   now HD stable.
   - MAP > 60 and SV02 at goal (>70%)
   - blood cultures w/ pan sensitive GNRs and UCx w/ EColi
   - given nausea w/ cipro IV, and poor bioavaialability in PO version,
   will switch to PO levoflox
   - can d/c vanc
   - f/u culture data until finalized
   - consider removal of CVL today
   # Acute renal failure:  Likely prerenal in setting of sepsis and
   hypotension.
   - resolved with IVFs
   # Question cholecystitis:  Unlikely given normal LFTs and absence of
   LUQ pain.
   - f/u surgery reccs
   - on antibx for sepsis
   - would not pursue further imaging
   # Microcytic anemia:  Thought to be related to gastric bypass, low B12,
   low iron.
   - guaiac stools
   - banana bag per surgery
   # Headache: similar to baseline headaches, on start ibuprofen to good
   effect
   # FEN: IVFs / replete lytes prn / regular diet
   # PPX: PPI, heparin SQ, bowel regimen
   # ACCESS: PIV
   # CODE:  Full, discussed
   # CONTACT:  fiance, [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 10815**] [**Telephone/Fax (1) 10816**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2177-12-20**] 11:00 AM
   18 Gauge - [**2177-12-20**] 11:00 AM
   Multi Lumen - [**2177-12-20**] 11:30 AM, will remove today
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Call out today

2177-12-22 11:27:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: GNR sepsis, pyelonephritis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
 [**1-20**] +BCx GNR,  E. Coli from urine
flank pain much improved
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   Bactrim Ds (Oral) (Sulfamethoxazole/Trimethoprim)
   sick;
   Last dose of Antibiotics:
   Vancomycin - [**2177-12-20**] 08:30 PM
   Cefipime - [**2177-12-21**] 09:00 AM
   Ciprofloxacin - [**2177-12-21**] 08:15 PM
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2177-12-22**] 08:50 AM
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-12-22**] 11:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**79**] AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 77 (66 - 119) bpm
   BP: 127/83(93) {93/57(67) - 134/93(103)} mmHg
   RR: 24 (13 - 24) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
   CVP: 7 (4 - 9)mmHg
   Total In:
                                                                  3,190 mL
                                                                    209 mL
   PO:
                                                                    600 mL
                                                                    120 mL
   TF:
   IVF:
                                                                  2,590 mL
                                                                     89 mL
   Blood products:
   Total out:
                                                                  3,050 mL
                                                                  1,020 mL
   Urine:
                                                                  3,050 mL
                                                                  1,020 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    140 mL
                                                                   -811 mL
   Respiratory support
   SpO2: 95%
   ABG: ///20/
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   6.5 g/dL
   251 K/uL
   85 mg/dL
   0.8 mg/dL
   20 mEq/L
   4.3 mEq/L
   13 mg/dL
   111 mEq/L
   138 mEq/L
   23.5 %
   5.8 K/uL
        [image002.jpg]
                             [**2177-12-21**]  04:07 AM
                             [**2177-12-22**]  08:56 AM
   WBC
   10.2
   5.8
   Hct
   24.1
   23.5
   Plt
   232
   251
   Cr
   1.0
   0.8
   Glucose
   84
   85
   Other labs: ALT / AST:28/33, Alk Phos / T Bili:68/0.4, Lactic Acid:2.8
   mmol/L, LDH:158 IU/L, Ca++:8.4 mg/dL, Mg++:2.0 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
 SEPSIS
   - Presumed pyelonephritis
   - +BCx GNR & UCx E. Coli
   - Abx spectrum narrowed based on cx data-- PO Levoquin
Hemodynamics
   - stable.  hypotension resolved
 Pyelonephritis
   - flank pain improving
   -cont targeted abx
   -remove Foley
 Iron deficiency anemia
S/p Gastric Bypass
 Iron and vitamin deficient
   - MVI, Iron, thiamine, folate
Pain control
   -much improved
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2177-12-20**] 11:00 AM
   18 Gauge - [**2177-12-20**] 11:00 AM
   Multi Lumen - [**2177-12-20**] 11:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: